US07015218B1
N-(3-Cyano-4-isobutoxyphenyl)-1,5-dimethylpyrazole-4-carboxamide
1-Hydroxybenzotriazole 1,5-dimethylpyrazole-4-carboxylate (2 g) and 5-amino-2-isobutoxybenzonitrile (1.9 g) were added to ethanol (25 ml) and the mixture was stirred at 78° C. for 3 h. After evaporation of the solvent, the residue was purified by silica gel column chromatography (mobile phase:chloroform:methanol=50:1) to give the title compound (0.8 g), melting point: 160–162° C.

reactant | 1-Hydroxybenzotriazole 1,5-dimethylpyrazole-4-carboxylate | 2 g | CN1N=CC(=C1C)C(=O)O.ON1N=NC2=C1C=CC=C2
reactant | 5-amino-2-isobutoxybenzonitrile | 1.9 g | NC=1C=CC(=C(C#N)C1)OCC(C)C | C11H14N2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-(3-Cyano-4-isobutoxyphenyl)-1,5-dimethylpyrazole-4-carboxamide | 0.8 g | C(#N)C=1C=C(C=CC1OCC(C)C)NC(=O)C=1C=NN(C1C)C | C17H20N4O2
